US09290511B2
A slurry of 3-oxa-8-azabicyclo[3.2.1]octane hydrochloride (0.1064 g, 0.7112 mmol) in ethanol (2 mL) was added to 2,4-dichloro-5-phenyl-thieno[2,3-d]pyrimidine (0.1 g, 0.3556 mmol). triethylamine (0.250 mL, 1.778 mmol) was added and the mixture was stirred overnight at room temperature. DCM (2 mL) was added to form a complete solution and the mixture was stirred overnight at room temperature. The solvent was evaporated. The residue was dissolved in DCM (2 mL) and water (2 mL). The layers were separated and the aqueous was extracted with DCM (2×2 mL). The combined organic layers were evaporated to give a brown oil. Mass: 162 mg. This was purified by silica chromatography (10 g cartridge; eluent petrol/ethyl acetate 0 to 15%; all output collected) and the second eluting peak isolated to give 8-(2-chloro-5-phenyl-thieno[2,3-d]pyrimidin-4-yl)-3-oxa-8-azabicyclo[3.2.1]octane as a white solid (111 mg). LCMS: RT=4.95 min. M+1=358.

reactant | 3-oxa-8-azabicyclo[3.2.1]octane hydrochloride | 0.7112 mmol, 0.1064 g | Cl.C12COCC(CC1)N2
reactant | 2,4-dichloro-5-phenyl-thieno[2,3-d]pyrimidine | 0.3556 mmol, 0.1 g | ClC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)Cl | C12H6Cl2N2S
reactant | triethylamine | 1.778 mmol, 0.250 mL | C(C)N(CC)CC | C6H15N
reactant | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 8-(2-chloro-5-phenyl-thieno[2,3-d]pyrimidin-4-yl)-3-oxa-8-azabicyclo[3.2.1]octane | 111 mg | ClC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)N2C1COCC2CC1 | C18H16ClN3OS
